US06265575B1
Part D. 7-Fluoro-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
A solution of 7-fluoro-2-[4-hydroxyphenyl]-6-methoxybenzo[b]thiophene (Part C; 550 mg, 2.0 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (375 mg, 2.2 mmol) and Cs2CO3 (1.65 g, 5.0 mmol) in 20 mL of DMF was heated at 80° C. for 5 h. The reaction mixture was cooled to ambient temperature and poured into saturated aqueous NaHCO3 solution (20 mL). The aqueous layer was extracted with EtOAc (2×20 mL). The combined organics were washed with H2O (2×50 mL) and brine (50 mL), dried over Na2SO4, filtered, and concentrated. Purification by radial chromatography (SiO2; 2% MeOH in CHCl3, saturated with NH4OH) afforded 598 mg (1.61 mmol; 80%) of the title compound as a yellow oil.

reactant | 7-fluoro-2-[4-hydroxyphenyl]-6-methoxybenzo[b]thiophene | 2.0 mmol, 550 mg | FC1=C(C=CC2=C1SC(=C2)C2=CC=C(C=C2)O)OC | C15H11FO2S
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 2.2 mmol, 375 mg | Cl.ClCCN1CCCC1
reactant | Cs2CO3 | 5.0 mmol, 1.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-Fluoro-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | FC1=C(C=CC2=C1SC(=C2)C2=CC=C(C=C2)OCCN2CCCC2)OC | C21H22FNO2S
